US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-6-(1-phenylethylamino)caproic acid and ethyl 4-benzylaminobutyrate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(p-chlorobenzoyl)-6-(1-phenylethylamino)hexanoyl]-4-benzylaminobutyric acid.

reactant | N-(p-chlorobenzoyl)-6-(1-phenylethylamino)caproic acid | ClC1=CC=C(C(=O)N(CCCCCC(=O)O)C(C)C2=CC=CC=C2)C=C1 | C21H24ClNO3
reactant | ethyl 4-benzylaminobutyrate | C(C1=CC=CC=C1)NCCCC(=O)OCC | C13H19NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-(p-chlorobenzoyl)-6-(1-phenylethylamino)hexanoyl]-4-benzylaminobutyric acid | ClC1=CC=C(C(=O)N(CCCCCC(=O)N(CCCC(=O)O)CC2=CC=CC=C2)C(C)C2=CC=CC=C2)C=C1 | C32H37ClN2O4
